US07115784B2
Preparation of N-(2-methoxyphenyl)benzamide at 40° C.
Using general procedure A, benzamide (150 mg, 1.24 mmol) was coupled with 2-iodoanisole (135 μL, 1.04 mmol) at 40° C. for 18 h. The crude product was purified by flash chromatography on silica gel (2×15 cm; hexane-ethyl acetate 3:1; 15 mL fractions). Fractions 8–12 provided 49 mg (21% yield) of the product as a colorless oil. The 1H NMR spectrum was in accord with that reported by Narasaka et al. Tsutsi, H.; Ichikawa, T.; Narasaka, K. Bull. Chem. Soc. Jpn. 1999, 72, 1869.

reactant | benzamide | 1.24 mmol, 150 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | 2-iodoanisole | 1.04 mmol, 135 μL | IC1=C(C=CC=C1)OC | C7H7IO
product | N-(2-methoxyphenyl)benzamide | 49 mg, 21% yield | COC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C14H13NO2
